US07071175B1
Diethyl malonate (1.93 mL, 12.7 mmol) was added dropwise to a solution of NaH (60%; 0.51 g, 12.8 mmol) in dry THF (15 mL) at 0° C. The mixture was stirred at room temperature for 1 h after which it was added to a refluxed mixture of 3-bromomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (2.8 g, 10.6 mmol) in dry THF (30 mL). The reaction mixture was further refluxed for 19 h, and then concentrated to almost dryness. Water (1 L) was added, and the product was extracted with CH2Cl2. The combined organic phases were dried and concentrated under reduced pressure to yield 3.3 g of the crude product. Purification by flash chromatography (CH2Cl2/EtOAc: 1/0→68/32) afforded 2-(1-tert-butoxycarbonyl-pyrrolidin-3-ylmethyl)-malonic acid diethyl ester (1.64 g, 45%).

reactant | Diethyl malonate | 12.7 mmol, 1.93 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaH | 12.8 mmol, 0.51 g | [H-].[Na+]
reactant | 3-bromomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 10.6 mmol, 2.8 g | C(C)(C)(C)OC(=O)N1CC(CC1)CBr | C10H18BrNO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(1-tert-butoxycarbonyl-pyrrolidin-3-ylmethyl)-malonic acid diethyl ester | 1.64 g, 45% | C(C)OC(C(C(=O)OCC)CC1CN(CC1)C(=O)OC(C)(C)C)=O | C17H29NO6
